data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C1C2C(N2S(=O)(=O)C3=CC=C(C=C3)C)C4C(C1O[Si](C)(C)C(C)(C)C)OC(O4)(C)C.[Li:11][C:10](C)(C)C>>[H:20][C:10](C)(C)C.[Li+:11].CC1=CC=C(C=C1)S(=O)(=O)N2C3C2C4C(C(C3[O-:21])O[Si](C)(C)C(C)(C)C)OC(O4)(C)C 10,11=10,20;20,21=21
[H:20][CH:21]1CCCC[C:22]1=[O:23].[OH-:10]>>[H:20][OH:10].C1CC[C:22](=[CH:21]C1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCNCC=C(N)[O-:10]>>[H:20][O:10]C(=CCNCC)N.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]([CH:22]=[O:23])C(C)O.[OH-:10]>>[H:20][OH:10].CC([CH:21]=[CH:22][O-:23])O 10=20;22,23=23;20,21=21,22
C1CO[C:20](=[O:21])O1.[Cl-:10]>>C1CO[C:20](O1)([O-:21])[Cl:10] 10=20;20,21=21
CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O[C:20](CNC(=O)OC(C)(C)C)([N+:21]6=CC=C(C=C6)N(C)C)[O-:10].CC(C)NC(=O)NC(C)C.CC(C)(C)OC(=O)NCC(=O)[O-].CN(C)C1=CC=[NH+]C=C1>>CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O[C:20](=[O:10])CNC(=O)OC(C)(C)C.CN(C)C1=CC=[N:21]C=C1.CC(C)NC(=O)NC(C)C.CC(C)(C)OC(=O)NCC(=O)[O-].CN(C)C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][Cl:21].C1CCC([C:11](=[CH:10]C1)C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1CCCCC([C+:11]1C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Cl-:21] 10,11=10,20;20,21=21
C1C[CH:20]=[CH:21][C:22](=[O:23])C1.O[O-:10]>>C1C[CH:20]([CH:21]=[C:22](C1)[O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
CCOC(=O)C[C:20](NNC(=S)N)([O-:10])[Cl:21].C1=CC=[NH+]C=C1>>CCOC(=O)C[C:20](=[O:10])NNC(=S)N.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
CC(C)(C)[S:20](=[O:21])Cl.C[NH2:10].CCN(CC)CC>>CC(C)(C)[S:20]([NH2+:10]C)([O-:21])Cl.CCN(CC)CC 10=20;20,21=21
CCOC(=O)[C:20](=[OH+:21])CC(C1=C(C(=CC=C1)N2CCCCC2)[N+](=O)[O-])C(=[O:10])C(=O)OCC.CC(=O)[O-].C1CCOC1>>CCOC(=O)C1=[O+:10][C:20](CC1C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-])(C(=O)OCC)[OH:21].CC(=O)[O-].C1CCOC1 10=20;20,21=21
CC1(C2C[CH2:10][C:11]1([C+:20](C2O)C3=CC=CC=C3)C)C.O>>C[C+:11]1C(C2C[CH2:10][C:20]1(C2O)C3=CC=CC=C3)(C)C.O 10,11=10,20
CCCCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)CCC)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)CCC)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC[NH:10]C(C=C)(O)O>>[H:20][NH+:10](CC)C(C=C)(O)O.[OH2:21] 10=20;20,21=21
C[C:20](C1=CC=CC=C1)([O-:10])[O:21]C(=O)C=C>>C[C:20](=[O:10])C1=CC=CC=C1.C=CC(=O)[O-:21] 10=20;20,21=21
CCCCCC1=C[C:11](=[C:10](C(=C1)O)[CH:20](C=C(C)CCC=C(C)C)[OH:21])[O-:12]>>CCCCCC1=C[C:11](=[O:12])[C:10](=[CH:20]C=C(C)CCC=C(C)C)C(=C1)O.[OH-:21] 10,11=10,20;20,21=21;12=11
CCCCCCCC[P+:22](CCCCCCCC)(CCCCCCCC)[O:21][CH:20]1C=CC=CC(OC1CC=CC#C)CC.[Cl-:10].C(Cl)(Cl)Cl>>CCCCCCCC[P:22](=[O:21])(CCCCCCCC)CCCCCCCC.CCC1C=CC=C[CH:20](C(O1)CC=CC#C)[Cl:10].C(Cl)(Cl)Cl 10=20;20,21=21,22
[H:20][NH+:21](CCO)C(C)(CCC(=O)C)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)CCC(C)([NH:21]CCO)O 10=20;20,21=21
CC(=O)[O:21][C:20](C)(C1=CC=CC=C1)[O-:10]>>C[C:20](=[O:10])C1=CC=CC=C1.CC(=O)[O-:21] 10=20;20,21=21
C(C[O-:10])CO[C:20](=[O:21])O>>C1CO[C:20]([O:10]C1)(O)[O-:21] 10=20;20,21=21
[H:20][O:21]CC=CC1=CC=CC=C1.[C-:10](Br)(Br)Br.C1CCOC1.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=CC=C(C=C1)C=CC[O-:21].C1CCOC1.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
CC(CCC=C(C)C=O)C[CH:20]([N:10](C)C1=CC=CC=C1)[OH2+:21].CNC1=CC=CC=C1>>CC(CCC=C(C)C=O)C[CH:20]=[N+:10](C)C1=CC=CC=C1.[OH2:21].CNC1=CC=CC=C1 10=20;20,21=21
C[C:20](=[O:21])CC=C(C)[NH:10]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=[NH+]C=C1.O>>CC1=CC[C:20]([NH+:10]1C2=CC3=C(C=C2)C(=C(O3)C4=CC=CC=C4)I)(C)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=[NH+]C=C1.O 10=20;20,21=21
[CH:20](=[OH+:21])[S-:10]>>[CH:20](=[S:10])[OH:21] 10=20;20,21=21
CS[CH:20]=[OH+:21].[OH2:10]>>CS[CH:20]([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][CH:21](C1(C(=CC(C2C1(CCCC2(C)C)C)O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)O)[O:22][S+:23](C)[CH2-:10].C1=CC=[NH+]C=C1.C(=O)(C(F)(F)F)[O-]>>[H:20][CH2:10][S:23]C.CC1(CCCC2(C1C(C=C(C2([CH:21]=[O:22])O)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C.C1=CC=[NH+]C=C1.C(=O)(C(F)(F)F)[O-] 10=20;22,23=23;20,21=21,22
[H:20][N:21](C)C(=O)C.[NH2-:10]>>[H:20][NH2:10].CC(=O)[N-:21]C 10=20;20,21=21
COC(=[NH:10])CC=C.[OH+:21]([Na])[Cl:20].[Cl-]>>COC(=[NH+:10][Cl:20])CC=C.[OH:21][Na].[Cl-] 10=20;20,21=21
CC[OH:10].C=C[CH+:20]C1=CC=CC=C1>>CC[OH+:10][CH:20](C=C)C1=CC=CC=C1 10=20,
[H:20][O:21]C12C3CC(C(C3CC1(C(CC4C2C=CC4(C)C)OS(=O)(=O)C)C)OCC5=CC=CC=C5)C.CC(C)(C)[O-:10].CC(C)(C)O>>[H:20][O:10]C(C)(C)C.CC1CC2C(C1OCC3=CC=CC=C3)CC4(C2(C5C=CC(C5CC4OS(=O)(=O)C)(C)C)[O-:21])C.CC(C)(C)O 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20](C)CCO.[Br-:10]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C[CH:20](CCO)[Br:10] 10=20;20,21=21
CCS[C:20](C=C)([O-:10])[O:21]C(=O)C>>CCS[C:20](=[O:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
CCCC1CCC[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCCC1CCC[CH:20]2C1OC(=[O+:10]2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[O+](C)[Si-:10](C)(C)(C)[I:11]>>C[O+](C)[Si:10](C)(C)C.[I-:11] 10,11=11
